US05840910
0.71 g (6 mmol) of thionyl chloride was added to a solution of 0.40 g (1.5 mmol) of 2-hydroxymethyl-3-methyl-4-(2-pyridylmethoxyethoxy)pyridine in 10 ml of chloroform under cooling with ice to obtain a mixture. This mixture was stirred at 0° C. for 2 hours. After the completion of the reaction, the mixture was neutralized with a saturated aqueous solution of sodium hydrogencarbonate and extracted with 50 ml of chloroform four times. The extract was dried over magnesium sulfate and filtered. The obtained filtrate was concentrated and dried in a vacuum to obtain 0.42 g of crude 2-chloromethyl-3-methyl-4-(2-pyridylmethoxyethoxy)pyridine as a semicrystal.

reactant | thionyl chloride | 6 mmol, 0.71 g | S(=O)(Cl)Cl | Cl2OS
reactant | 2-hydroxymethyl-3-methyl-4-(2-pyridylmethoxyethoxy)pyridine | 1.5 mmol, 0.40 g | OCC1=NC=CC(=C1C)OCCOCC1=NC=CC=C1 | C15H18N2O3
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-chloromethyl-3-methyl-4-(2-pyridylmethoxyethoxy)pyridine | 0.42 g | ClCC1=NC=CC(=C1C)OCCOCC1=NC=CC=C1 | C15H17ClN2O2
